datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(O[C:20](=[O:10])N1C)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CCC1C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[OH:21][C:20]1(C)C(O)C(C)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(C)C(O)[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)O[H])CC)C1=CC=CC=C1>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])O[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[OH:10]C(CCC)/C(C)=C(C)\C([H])[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C([H])C(C)=C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H]N([C:20](=[O:10])OCC)CC.[O-:21][H]>>[H]N([C:20]([O-:10])(OCC)[O:21][H])CC 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])/C(C)=C([H])\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])=C(C)C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1)C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C.[Cl-:21] 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)C1=CC=CC=C1 10=20;20,21=21"
"[NH:10]([H])C(CC)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C([H])C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]C.[Cl-]>>[Cl-].[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]C 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[NH:10](C)C(C)C(C)C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[O:20]=[C:21](OCC)OCC.[H][O:10][Na]>>[H][O+:10]([Na])[C:21]([O-:20])(OCC)OCC 10=21;21,20=20"
"C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)CCCCCC)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)CCCCCC)C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C)[S]1 10=20;20,21=21"
